US06630128B1
4-[10-Undecenyloxy]-benzaldehyde
A mixture of 11-bromoundec-1-ene (2.02 g), 4-hydroxy-benzaldehyde (1.06 g, 8.6 mmol), potassium carbonate, potassium iodide and tetra-n-butylamomnium iodide was heated at reflux in methyl ethyl ketone (10 ml) for 16 hours. After cooling, the solids were filtered off and washed with acetone. The combined organic fractions were evaporated to dryness. The crude product obtained was filtered through a pad of silica gel which was eluted with petroleum ether (b.p. 40-60° C.) to remove the excess of bromoundecene. The silica gel was then eluted with acetone and the acetone fractions evaporated under reduced pressure to yield the title compound.

reactant | 11-bromoundec-1-ene | 2.02 g | BrCCCCCCCCCC=C | C11H21Br
reactant | 4-hydroxy-benzaldehyde | 8.6 mmol, 1.06 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | iodide | [I-]
solvent | methyl ethyl ketone | 10 ml | C(C)C(=O)C | C4H8O
product | 4-[10-Undecenyloxy]-benzaldehyde | C(CCCCCCCCC=C)OC1=CC=C(C=O)C=C1 | C18H26O2
